US06800651B2
N-(4-(2-Cyanophenoxy)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
Using the method of Example 342 using N-(4-(2-cyanophenoxy)phenyl)pyridin-3-ylmethylamine and ethanesulfonyl chloride (Aldrich) and purifying via preparative HPLC eluting with 98:2 to 96:4 DCM/MeOH. Anal Calcd for C21H19N3O3S.0.2H2O: C, 63.52; H, 4.92; N, 10.58. Found: C, 63.51; H, 4.79; N, 10.55. MS found 394.0 [M+H]+

reactant | N-(4-(2-cyanophenoxy)phenyl)pyridin-3-ylmethylamine | C(#N)C1=C(OC2=CC=C(C=C2)NCC=2C=NC=CC2)C=CC=C1 | C19H15N3O
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-(4-(2-Cyanophenoxy)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | C(#N)C1=C(OC2=CC=C(C=C2)N(S(=O)(=O)CC)CC=2C=NC=CC2)C=CC=C1 | C21H19N3O3S
